US05661160
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trifluoro-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Combine 3-(3,4-dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine (286 mg, 1.1 mmol), 3,4,5-trifluoro-benzoic acid (1 mmol), N,N-diisopropylethylamine (0.19 mL, 1.1 mmol), 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (EDC) (0.21 g, 1.1 mmol), and 1-hydroxybenzotriazole hydrate (HOBT) (0.15 g, 1.1 mmol) in dichloromethane (10 mL). After 18 hour, dilute with dichloromethane and extract with 1M hydrochloric acid solution, 5% sodium bicarbonate solution, and water. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give the title compound: Rf =0.45 (silica gel, 10% methanol/dichloromethane).

reactant | 3-(3,4-dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine | 1.1 mmol, 286 mg | ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | C12H15Cl2NO
reactant | 3,4,5-trifluoro-benzoic acid | 1 mmol | FC=1C=C(C(=O)O)C=C(C1F)F | C7H3F3O2
reactant | N,N-diisopropylethylamine | 1.1 mmol, 0.19 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 1.1 mmol, 0.21 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 1.1 mmol, 0.15 g | O.ON1N=NC2=C1C=CC=C2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trifluoro-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)F)F)F)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C31H30Cl2F3N3O2
